US07714010B2
e) 2,2,2-Trifluoro-N-(6′-nitro-2′-oxo-1′-pentyl-spiro[cyclopropane-1,3-indole]-5′-yl)-acetamide
To a solution of 2,2,2-trifluoro-N-(2′-oxo-1′-pentyl-spiro[cyclopropane-1,3′-indole]-5′-yl)-acetamide (2.4 g) in acetic acid (20 ml) is added nitric acid (fuming, 0.9 ml) at 15° C. over a period of 3 min. The mixture is stirred at this temperature for 1 h and then diluted with water. The aqueous layer is extracted with Et2O (2×50 ml) The combined organic layer is washed with water, saturated K2CO3 solution and brine, dried over MgSO4 and evaporated. The compound (2.6 g) is obtained as brownish oil.

reactant | 2,2,2-trifluoro-N-(2′-oxo-1′-pentyl-spiro[cyclopropane-1,3′-indole]-5′-yl)-acetamide | 2.4 g | FC(C(=O)NC=1C=C2C3(C(N(C2=CC1)CCCCC)=O)CC3)(F)F | C17H19F3N2O2
reactant | nitric acid | 0.9 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2,2,2-Trifluoro-N-(6′-nitro-2′-oxo-1′-pentyl-spiro[cyclopropane-1,3-indole]-5′-yl)-acetamide | 2.6 g | FC(C(=O)NC=1C=C2C3(C(N(C2=CC1[N+](=O)[O-])CCCCC)=O)CC3)(F)F | C17H18F3N3O4
